US05071844
(R)-3-Chloro-1-(4-methoxyphenethyl)-3-methylpiperidine
Thionyl chloride (238 mg) was added slowly to a solution of (S)-2-hydroxymethyl-1-(4-methoxyphenethyl)-2-methylpyrrolidine (see Preparation 10) (349 mg) in dichloromethane (15 ml) and the mixture was heated under reflux for 2 hours. The reaction was cooled, diluted with dichloromethane, washed with 10% aqueous sodium carbonate solution, dried over sodium sulphate and evaporated under reduced pressure to give the title compound as a brown gum, (130 mg), which was characterised by NMR and used directly in Example 4 without further purification.

reactant | Thionyl chloride | 238 mg | S(=O)(Cl)Cl | Cl2OS
reactant | (S)-2-hydroxymethyl-1-(4-methoxyphenethyl)-2-methylpyrrolidine | 349 mg | OC[C@]1(N(CCC1)CCC1=CC=C(C=C1)OC)C | C15H23NO2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (R)-3-Chloro-1-(4-methoxyphenethyl)-3-methylpiperidine | 130 mg | Cl[C@]1(CN(CCC1)CCC1=CC=C(C=C1)OC)C | C15H22ClNO
